datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=[N+]([O-])/C=C/c1cccc([O-:10])c1.ONC(c1ccccc1)=[N+:21](O)[H:20]>>O=[N+]([O-])/C=C/c1cccc([O:10][H:20])c1.ONC(c1ccccc1)=[N:21]O 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])C=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)C=C1 10=20;20,21=21",
"CCC1=C2C(=[N:10]c3ccccc32)N(C)C(Cl)=C1.Cc1cnc2c(c1)c(C)cc1c(C)cc[n+:21]([H:20])c12>>CCC1=C2C(=[N+:10]([H:20])c3ccccc32)N(C)C(Cl)=C1.Cc1cnc2c(c1)c(C)cc1c(C)cc[n:21]c12 10=20;20,21=21",
"CN1CC(=O)[N-:10]C1=O.C[N:21](S(=O)(=O)C(F)(F)F)[H:20]>>CN1CC(=O)[N:10]([H:20])C1=O.C[N-:21]S(=O)(=O)C(F)(F)F 10=20;20,21=21",
"C[n+]1cccc2cc([S:21][H:20])ccc21.Cc1cc(Cl)cc(Cl)c1[O-:10]>>C[n+]1cccc2cc([S-:21])ccc21.Cc1cc(Cl)cc(Cl)c1[O:10][H:20] 10=20;20,21=21",
"CCC[n+]1cccc2c([O-:10])cccc21.O=[N+]([O-])c1cc(Cl)c([O:21][H:20])c(Cl)c1>>CCC[n+]1cccc2c([O:10][H:20])cccc21.O=[N+]([O-])c1cc(Cl)c([O-:21])c(Cl)c1 10=20;20,21=21",
"CNc1cc[n+:21]([H:20])c([S-])n1.Nc1ccc(S(=O)(=O)[N-:10]c2ncc[nH]2)cc1>>CNc1cc[n:21]c([S-])n1.Nc1ccc(S(=O)(=O)[N:10](c2ncc[nH]2)[H:20])cc1 10=20;20,21=21",
"Cc1cc(Br)cc(C)c1[N:10](C)C.O=S(=O)(C(F)(F)F)[O:21][H:20]>>Cc1cc(Br)cc(C)c1[N+:10](C)(C)[H:20].O=S(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21",
"Nc1nc(N)[n+:21]([H:20])c2[nH]ncc12.c1co[n:10]c1>>Nc1nc(N)[n:21]c2[nH]ncc12.c1co[n+:10]([H:20])c1 10=20;20,21=21",
"CCC(=O)C(CC[N:10]1CCCCC1)(c1ccccc1)c1ccccc1.O[C@H]1CCCC[C@@H]1[NH2+:21][H:20]>>CCC(=O)C(CC[N+:10]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.O[C@H]1CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"CC(C)(C(=O)[O-])[NH:10]C.O=C1C(Cc2ccccc2)=C([O:21][H:20])C(=O)c2ccccc21>>CC(C)(C(=O)[O-])[NH+:10](C)[H:20].O=C1C(Cc2ccccc2)=C([O-:21])C(=O)c2ccccc21 10=20;20,21=21",
"C#CC(C)(C)[N:10](C)C(C)C.NC(=O)C(Cc1c[nH]c2ccccc12)[NH2+:21][H:20]>>C#CC(C)(C)[N+:10](C)(C(C)C)[H:20].NC(=O)C(Cc1c[nH]c2ccccc12)[NH2:21] 10=20;20,21=21",
"CC[N+:21](CCO)(c1ccc(N)cc1)[H:20].C[N:10]1[C@@H]2C[C@H](OC(=O)C(CO)c3ccccc3)C[C@H]1[C@H]1O[C@H]12>>CC[N:21](CCO)c1ccc(N)cc1.C[N+:10]1([H:20])[C@@H]2C[C@H](OC(=O)C(CO)c3ccccc3)C[C@H]1[C@H]1O[C@H]12 10=20;20,21=21",
"Clc1ccc(/C=N/[O-:10])cc1.O=C1C[C@H]2C(=O)[N:21]([H:20])C(=O)[C@H]2N1>>Clc1ccc(/C=N/[O:10][H:20])cc1.O=C1C[C@H]2C(=O)[N-:21]C(=O)[C@H]2N1 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].COCCC[NH2+:21][H:20]>>CCCC[NH+:10](CCC(=O)[O-])[H:20].COCCC[NH2:21] 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc(Nc2ccc(Cl)cc2)[n+:21]([H:20])c(C)n1.Oc1ccccc1C(c1ccccc1)=[NH:10]>>CC[NH+](CC)CCNc1cc(Nc2ccc(Cl)cc2)[n:21]c(C)n1.Oc1ccccc1C(c1ccccc1)=[NH+:10][H:20] 10=20;20,21=21",
"COc1ccc(O)c(C[NH:10]C(CO)C(=O)[O-])c1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>COc1ccc(O)c(C[NH+:10](C(CO)C(=O)[O-])[H:20])c1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCC(=O)C1(c2cccc(O)c2)CC[N:10](C)CC1.C[O+:21](C)[H:20]>>CCC(=O)C1(c2cccc(O)c2)CC[N+:10](C)([H:20])CC1.C[O:21]C 10=20;20,21=21",
"CCCCCCCCCC[N+:21](CCO)(CC(C)O)[H:20].CSc1cccc2c1ccc[n:10]2>>CCCCCCCCCC[N:21](CCO)CC(C)O.CSc1cccc2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1.CC(C)C1CC(CC(=O)O)[NH2+]C1C(=O)[O:21][H:20]>>C1CCC([P+:10](C2CCCCC2)(C2CCCCC2)[H:20])CC1.CC(C)C1CC(CC(=O)O)[NH2+]C1C(=O)[O-:21] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].OCCN1CC[NH:10]CC1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.OCCN1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"C1CNCC[NH+:21]([H:20])CCN1.O=Cc1ccncc1[O-:10]>>C1CNCC[NH:21]CCN1.O=Cc1ccncc1[O:10][H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCC[N+:21](C(C)C)(C(C)C)[H:20].CC(C)Cc1ccc(O)c(C[N:10](C)C)c1>>C=C(C)C(=O)OCC[N:21](C(C)C)C(C)C.CC(C)Cc1ccc(O)c(C[N+:10](C)(C)[H:20])c1 10=20;20,21=21",
"COCC[O-:10].C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>COCC[O:10][H:20].C[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(F)ccc1[O-:10].c1cncc([S:21][H:20])c1>>CC[NH+](CC)Cc1cc(F)ccc1[O:10][H:20].c1cncc([S-:21])c1 10=20;20,21=21",
"O=C(C[Se]c1ccccc1[N+](=O)[O-])[O-:10].[O-]c1cncc[n+:21]1[H:20]>>O=C(C[Se]c1ccccc1[N+](=O)[O-])[O:10][H:20].[O-]c1cncc[n:21]1 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC=C1 10=20;20,21=21",
"CC(C)CCCC(C)[NH2:10].Cc1c(Cl)c([N+](=O)[O-])cc2c1nnn2[O:21][H:20]>>CC(C)CCCC(C)[NH2+:10][H:20].Cc1c(Cl)c([N+](=O)[O-])cc2c1nnn2[O-:21] 10=20;20,21=21",
"C[N+:21](C)(O)[H:20].Cc1cccc(C)c1[N-:10]N=C(C#N)C#N>>C[N:21](C)O.Cc1cccc(C)c1[N:10](N=C(C#N)C#N)[H:20] 10=20;20,21=21",
"CN1c2ccccc2[NH:10]c2ccc(O)cc21.O=C(C(c1ccc(-c2ccccc2)cc1)C1(O)CCCC1)[O:21][H:20]>>CN1c2ccccc2[NH+:10]([H:20])c2ccc(O)cc21.O=C(C(c1ccc(-c2ccccc2)cc1)C1(O)CCCC1)[O-:21] 10=20;20,21=21",
